US05607929
10,11-Dihydrodibenzo[b,f][1,4]thiazepin-11-one-5-oxide
A solution of MCPBA (1 eq) in chloroform (5 ml) was added to a stirred solution of 10,11-dihydrodibenzo[b,f][1,4] thiazepin-11-one (114 mg, 0.5 mmol) in chloroform (30 ml). After 0.5 hr the reaction mixture was poured into sodium bicarbonate solution (5%, 30 ml), separated and the aqueous layer washed with chloroform (30 ml). The combined organic fractions were dried (MgSO4) and evaporated. Recrystallisation from toluene gave the title compound as off-white crystals (76 mg, m.p. 308°-310° C., Rf 0.16, CH2Cl2 /MeOH 50:1).

reactant | MCPBA | 1 eq | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 10,11-dihydrodibenzo[b,f][1,4] thiazepin-11-one | 0.5 mmol, 114 mg | C1=CC=CC2=C1C(NC1=C(S2)C=CC=C1)=O | C13H9NOS
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 10,11-Dihydrodibenzo[b,f][1,4]thiazepin-11-one-5-oxide | 76 mg | C1=CC=CC2=C1C(NC1=C(S2=O)C=CC=C1)=O | C13H9NO2S
